US06432957B1
Synthesis of N-[2-(tert-butyldimethylsilyloxy)ethyl]-N-[[2-(3,4,5-trimethoxyphenyl)pyridin-4-yl]methyl]amine
N-(2-Hydroxyethyl)-N-[[2-(3,4,5-trimethoxyphenyl)-pyridin-4-yl]methyl]amine (5.0 g) was dissolved in acetonitrile (100 mL), and to the solution triethylamine (2.22 g) and 4-(dimethylamino)pyridine (250 mg) were added, and tert-butylchlorodimethylsilane (3.08 g) was then added. The mixture was stirred at 50° C. for 4 hours. The reaction, the reaction mixture was concentrated under reduced pressure, ethyl acetate was added to the residue, and the mixture was washed with water and saturated brine, dried over anhydrous sodium sulfate and concentrated under reduced pressure. The residue was purified by column chromatography on silica gel (chloroform:methanol=30:1) to obtain the title compound.

reactant | N-(2-Hydroxyethyl)-N-[[2-(3,4,5-trimethoxyphenyl)-pyridin-4-yl]methyl]amine | 5.0 g | OCCNCC1=CC(=NC=C1)C1=CC(=C(C(=C1)OC)OC)OC | C17H22N2O4
reactant | triethylamine | 2.22 g | C(C)N(CC)CC | C6H15N
reactant | tert-butylchlorodimethylsilane | 3.08 g | C(C)(C)(C)[Si](C)(C)Cl | C6H15ClSi
solvent | acetonitrile | 100 mL | C(C)#N | C2H3N
catalyst | 4-(dimethylamino)pyridine | 250 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | N-[2-(tert-butyldimethylsilyloxy)ethyl]-N-[[2-(3,4,5-trimethoxyphenyl)pyridin-4-yl]methyl]amine | [Si](C)(C)(C(C)(C)C)OCCNCC1=CC(=NC=C1)C1=CC(=C(C(=C1)OC)OC)OC | C23H36N2O4Si
